US07750003B2
2-Chloro-4-(methylsulfonylmethyl)-6-morpholin-4-yl-pyrimidine
A suspension of 2,4-dichloro-6-(methylsulfonylmethyl)pyrimidine (10.56 g) in DCM (230 mL) was stirred magnetically (under nitrogen) and cooled to −5° C. Triethylamine (6.78 mL) was added followed by the dropwise addition of a solution of morpholine (3.85 mL) in DCM (30 mL) maintaining the reaction temperature below −5° C. The reaction was stirred at room temperature for 1 hour and then the organic mixture washed with water (300 mL). The organic phase was dried (MgSO4), filtered and evaporated to a brown solid which was chromatographed on silica, eluting with 50% ethyl acetate in DCM, to give the desired material (6.81 g) as a white solid.

reactant | 2,4-dichloro-6-(methylsulfonylmethyl)pyrimidine | 10.56 g | ClC1=NC(=CC(=N1)Cl)CS(=O)(=O)C | C6H6Cl2N2O2S
reactant | Triethylamine | 6.78 mL | C(C)N(CC)CC | C6H15N
reactant | morpholine | 3.85 mL | N1CCOCC1 | C4H9NO
solvent | DCM | 230 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-Chloro-4-(methylsulfonylmethyl)-6-morpholin-4-yl-pyrimidine | 6.81 g | ClC1=NC(=CC(=N1)CS(=O)(=O)C)N1CCOCC1 | C10H14ClN3O3S
